US04052455
A mixture of 3,4-dichlorostyrylsulfonamide (12.6 g., 0.05 mole) and 3,4-dimethoxybenzoyl chloride (11.0 g., 0.055 mole) in 15 ml. of phosphorus oxychloride is heated at steam bath temperature for a period of 30 min. Excess phosphorus oxychloride is removed under reduced pressure and dry benzene added. The benzene is evaporated and the treatment repeated two times. Benzene (50 ml.) is added to the residue thus obtained and the insoluble solid collected providing 14.6 g. (70% yield) of N-(3,4-dichlorostyrylsulfonyl)-3,4-dimethoxybenzamide, m.p. 145°-147° C.

reactant | 3,4-dichlorostyrylsulfonamide | 0.05 mole, 12.6 g | ClC=1C=C(C=CS(=O)(=O)N)C=CC1Cl | C8H7Cl2NO2S
reactant | 3,4-dimethoxybenzoyl chloride | 0.055 mole, 11.0 g | COC=1C=C(C(=O)Cl)C=CC1OC | C9H9ClO3
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
product | N-(3,4-dichlorostyrylsulfonyl)-3,4-dimethoxybenzamide | 70% yield | ClC=1C=C(C=CS(=O)(=O)NC(C2=CC(=C(C=C2)OC)OC)=O)C=CC1Cl | C17H15Cl2NO5S
